US07795267B2
Tetrahydro-N-[2-(4-morpholinyl)-2-oxoethyl]-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
N-[(Tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]glycine (0.15 g, 0.38 mmol) was dissolved in N,N-dimethylformamide (3 mL). Morpholine (0.14 g, 1.2 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.15 g, 0.76 mmol) and 1-hydroxybenzotriazole (0.11 g, 0.77 mmol) were added thereto, and the mixture was stirred at room temperature for 20 hours. To the reaction solution was added ice water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, an aqueous saturated sodium hydrogen carbonate solution and water and then concentrated under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate:methanol=95:5) and powder was formed from hexane to obtain the title compound (90 mg, yield 51%).

reactant | N-[(Tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]glycine | 0.38 mmol, 0.15 g | O=C1OC(C2N1CCN(C2)C(=O)NCC(=O)O)(C2=CC=CC=C2)C2=CC=CC=C2 | C21H21N3O5
reactant | Morpholine | 1.2 mmol, 0.14 g | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.76 mmol, 0.15 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.77 mmol, 0.11 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | Tetrahydro-N-[2-(4-morpholinyl)-2-oxoethyl]-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 90 mg, yield 51% | N1(CCOCC1)C(CNC(=O)N1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C25H28N4O5
